US06548493B1
(7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-10-(4-pentenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (22 mg, 63%) from (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.077 mmol) and 5-bromo-1-pentene (23 mg, 0.15 mmol). 1H NMR (CDCl3, 300 MHz) δ1.68-1.79 (m, 2H), 2.01-2.26 (m, 7H), 2.43-2.62 (m, 4H), 2.71 (t, J=6.3 Hz, 2H), 2.83-2.92 (br, 1H), 2.95-3.07 (br, 1H), 3.27-3.44 (m, 3H), 3.86 (s, 3H), 4.93-5.05 (m, 2H), 5.70-5.85 (m, 1H), 6.80 (s, 1H), 6.84 (s, 1H), 7.02 (dd, J=8.1, 2.6 Hz, 1H), 7.18-7.24 (m, 2H) ppm. MS (CI, NH3): 457.2 (base, M+H).

reactant | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.077 mmol, 30 mg | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1)C(F)(F)F | C22H23F3N2O
reactant | 5-bromo-1-pentene | 0.15 mmol, 23 mg | BrCCCC=C | C5H9Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-10-(4-pentenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CCCC=C)C(F)(F)F | C27H31F3N2O
